US08258130B2
A solution of 2-(3-fluoro-phenyl)-4-methyl-pyrimidine-5-carboxylic acid (5-fluoro-indol-1-yl)-amide (300 mg, 0.82 mmol) in 2-Me-THF (7 mL) is treated with chlorosulfonyl isocyanate (CSI) (85 uL, 2.0 mmol) at 0° C., and the mixture is warmed to rt for 2 h. The mixture is then cooled to 0° C., treated with 1 M NaOH (1 mL), diluted with brine (20 mL), and extracted with EtOAc (3×20 mL). The combined organic layer is separated, dried (Na2SO4), filtered and concentrated in vacuo to afford 5-fluoro-1-{[2-(3-fluoro-phenyl)-4-methyl-pyrimidine-5-carbonyl]-amino}-1H-indole-3-carboxylic acid amide (275 mg, 83%). MS: 408 (M+H); 1H NMR (300 MHz, DMSO-d6): δ 9.27 (s, 1H), 8.35 (d, 1H), 8.26 (s, 1H), 8.20 (d, 1H), 7.95 (d, 1H), 7.59 (m, 3H), 7.15 (m, 1H), 2.78 (s, 3H). IC50=8 nM.

reactant | 2-(3-fluoro-phenyl)-4-methyl-pyrimidine-5-carboxylic acid (5-fluoro-indol-1-yl)-amide | 0.82 mmol, 300 mg | FC=1C=C2C=CN(C2=CC1)NC(=O)C=1C(=NC(=NC1)C1=CC(=CC=C1)F)C | C20H14F2N4O
reactant | chlorosulfonyl isocyanate | 2.0 mmol, 85 uL | ClS(=O)(=O)N=C=O | CClNO3S
reactant | NaOH | 1 M, 1 mL | [OH-].[Na+]
solvent | brine | 20 mL | [Cl-].[Na+].O
product | 5-fluoro-1-{[2-(3-fluoro-phenyl)-4-methyl-pyrimidine-5-carbonyl]-amino}-1H-indole-3-carboxylic acid amide | 275 mg, 83% | FC=1C=C2C(=CN(C2=CC1)NC(=O)C=1C(=NC(=NC1)C1=CC(=CC=C1)F)C)C(=O)N | C21H15F2N5O2
